US07429605B2
iii) 3-Chloromethyl-5-(4-chloro-phenyl)-pyridine
543 mg (0.333 ml, 4.56 mmol) thionyl chloride were added drop by drop at 0° C. to a solution of 0.2 ml N,N-dimethylformamide (DMF) and 500 mg (2.28 mmol) [5-(4-Chloro-phenyl)-pyridin-3-yl]-methanol in 30 ml dichloromethane and stirred for 2 h at 0° C. The mixture was poured on ice/sodium bicarbonate solution and the organic phase separated. The water phase is extracted with dichloromethane. The combined organic phases were washed with water, dried (sodium sulphate), evaporated and the obtained material (444 mg, 75%) used without further purification.

reactant | thionyl chloride | 4.56 mmol, 0.333 ml, 543 mg | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-dimethylformamide | 0.2 ml | CN(C=O)C | C3H7NO
reactant | [5-(4-Chloro-phenyl)-pyridin-3-yl]-methanol | 2.28 mmol, 500 mg | ClC1=CC=C(C=C1)C=1C=C(C=NC1)CO | C12H10ClNO
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 3-Chloromethyl-5-(4-chloro-phenyl)-pyridine | ClCC=1C=NC=C(C1)C1=CC=C(C=C1)Cl | C12H9Cl2N
